data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3517,4009,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][O:6][C:7](=[O:8])[C:9](=[NH+:10][C-:11]([CH3:12])[C:13]#[N:14])[C:15](=[O:16])[O:17][CH3:18]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:11]([CH3:12])([C:13]#[N:14])[NH:10][C:9]1([C:7]([O:6][CH3:5])=[O:8])[C:15](=[O:16])[O:17][CH3:18],water,298.15,22.32922844751177,-23.03021277031695
4487,5120,[CH3:10][O:11][C:12](=[O:13])[C-:14]([C:15]#[N:16])[O+:17]=[CH:18][c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[CH:18]([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[O:17][C:14]1([C:12]([O:11][CH3:10])=[O:13])[C:15]#[N:16],water,298.15,12.264572861296276,-24.81373686964742
3440,3910,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][O:6][C:7](=[O:8])[C:9](=[NH+:10][C-:11]([CH3:12])[CH3:13])[C:14](=[O:15])[O:16][CH3:17]>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[C:11]([CH3:12])([CH3:13])[NH:10][C:9]1([C:7]([O:6][CH3:5])=[O:8])[C:14](=[O:15])[O:16][CH3:17],water,298.15,31.596897516205807,-6.675652749854977
2989,3341,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][N-:8][N+:9]#[C:10][C:11]([CH3:12])=[O:13]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:10]([C:11]([CH3:12])=[O:13])=[N:9][N:8]1[CH3:7],water,298.15,16.567395094761604,-38.86951324253521
1184,1288,[CH3:14][C:15](=[O:16])[C:17](=[NH+:18][N-:19][C:20]#[N:21])[C:22]([CH3:23])=[O:24].[N:1]#[C:2][C:3]1([Cl:4])[C:5]#[C:6][C:7]([F:8])([F:9])[CH2:10][CH2:11][CH2:12][CH2:13]1>>[N:1]#[C:2][C:3]1([Cl:4])[C:5]2=[C:6]([C:7]([F:8])([F:9])[CH2:10][CH2:11][CH2:12][CH2:13]1)[C:17]([C:15]([CH3:14])=[O:16])([C:22]([CH3:23])=[O:24])[NH:18][N:19]2[C:20]#[N:21],water,298.15,14.20203192905947,-32.82991030867412
771,833,[CH3:13][CH-:14][N+:15]#[C:16][C:17]([CH3:18])=[O:19].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([Br:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[CH:14]([CH3:13])[N:15]=[C:16]2[C:17]([CH3:18])=[O:19],water,298.15,15.327223157586117,-42.80399096023326
4225,4833,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C-:11]([NH+:12]=[C:13]([C:14]#[N:15])[C:16]([CH3:17])=[O:18])[C:19](=[O:20])[O:21][CH3:22]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([C:19](=[O:20])[O:21][CH3:22])[NH:12][C:13]1([C:14]#[N:15])[C:16]([CH3:17])=[O:18],water,298.15,27.1206958467732,-9.252411702021064
4857,5540,[CH3:10][O:11][C:12](=[O:13])[N-:14][N+:15]([CH3:16])=[C:17]([C:18](=[O:19])[O:20][CH3:21])[C:22](=[O:23])[O:24][CH3:25].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:17]([C:18](=[O:19])[O:20][CH3:21])([C:22](=[O:23])[O:24][CH3:25])[N:15]([CH3:16])[N:14]1[C:12]([O:11][CH3:10])=[O:13],water,298.15,21.56208844187057,-18.492941169390907
2113,2346,[CH3:17][NH:18][C:19](=[O:20])[C-:21]([N+:22]#[C:23][C:24]([CH3:25])=[O:26])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[CH:12]2[CH2:13][CH2:14][CH:15]1[CH2:16]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([c:6]3[cH:7][cH:8][cH:9][cH:10][cH:11]3)([CH:12]3[CH2:13][CH2:14][CH:15]1[CH2:16]3)[C:23]([C:24]([CH3:25])=[O:26])=[N:22][C:21]2([C:19]([NH:18][CH3:17])=[O:20])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,16.010779428592674,-23.378784489318107
4328,4949,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12](=[O:13])[C:14]([CH3:15])=[O+:16][CH-:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:14]([C:12]([CH3:11])=[O:13])([CH3:15])[O:16][CH:17]2[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,8.572646828700652,-39.90671373462968
2292,2541,[CH3:20][NH:21][C:22](=[O:23])[C:24](=[NH+:25][CH-:26][C:27]([CH3:28])=[O:29])[C:30](=[O:31])[O:32][CH3:33].[cH:1]1[cH:2][cH:3][c:4]([C:5]2=[C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)[CH:13]3[CH2:14][CH2:15][CH:16]2[CH2:17]3)[cH:18][cH:19]1>>[cH:1]1[cH:2][cH:3][c:4]([C:5]23[C:6]([c:7]4[cH:8][cH:9][cH:10][cH:11][cH:12]4)([CH:13]4[CH2:14][CH2:15][CH:16]2[CH2:17]4)[CH:26]([C:27]([CH3:28])=[O:29])[NH:25][C:24]3([C:22]([NH:21][CH3:20])=[O:23])[C:30](=[O:31])[O:32][CH3:33])[cH:18][cH:19]1,water,298.15,30.234255187056284,8.72274890913936
59,70,[CH2-:4][N+:5]([CH3:6])=[C:7]([C:8]([CH3:9])=[O:10])[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1.[CH:1]#[C:2][CH3:3]>>[CH:1]1=[C:2]([CH3:3])[C:7]([C:8]([CH3:9])=[O:10])([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[N:5]([CH3:6])[CH2:4]1,water,298.15,20.34783468522847,-43.21578096685416
3674,4194,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][O:6][C:7](=[O:8])[C-:9]([CH3:10])[N+:11]([CH3:12])=[CH:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:9]([C:7]([O:6][CH3:5])=[O:8])([CH3:10])[N:11]([CH3:12])[CH:13]1[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,18.8757065275554,-30.315458096523
